US09376443B2
2-Bromomethyl-6-(1-methoxy-1-methylethyl)pyridine
Carbon tetrabromide (1.59 g, 4.80 mmol) was added portionwise to a stirred solution of 2-hydroxymethyl-6-(1-methoxy-1-methylethyl)pyridine (724 mg, 4.00 mmol) and triphenylphosphine (1.15 g, 4.40 mmol) in DCM (50 mL) at 0° C. The mixture was stirred at 0° C. for 1 h then concentrated in vacuo. The residue was purified by column chromatography (20:1 to 5:1 isohexane:EtOAc) to give the title compound (732 mg, 75%) as a colourless oil; NMR δH (400 MHz, CDCl3) 7.69-7.65 (1H, m), 7.46-7.43 (1H, m), 7.32-7.30 (1H, m), 4.55 (2H, s), 3.17 (3H, s), 1.55 (6H, s).

reactant | Carbon tetrabromide | 4.80 mmol, 1.59 g | C(Br)(Br)(Br)Br | CBr4
reactant | 2-hydroxymethyl-6-(1-methoxy-1-methylethyl)pyridine | 4.00 mmol, 724 mg | OCC1=NC(=CC=C1)C(C)(C)OC | C10H15NO2
reactant | triphenylphosphine | 4.40 mmol, 1.15 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | 2-Bromomethyl-6-(1-methoxy-1-methylethyl)pyridine | 732 mg, 75% | BrCC1=NC(=CC=C1)C(C)(C)OC | C10H14BrNO
